US07084176B2
Preparation of N-[3-(N-cyclohexylcarbamoyl)phenyl]-4-hydroxy-3-methoxyphenylacetamide
A mixture of N-(3-carboxyphenyl)-4-hydroxy-3-methoxyphenylacetamide (500 mg), pentafluorophenol (305 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (320 mg) and methylene chloride (10 ml) is stirred at 25° C. for 18 hours. The reaction solution is washed with water, and the solvent is evaporated under reduced pressure. To the residue are added ethyl acetate (10 ml) and cyclohexylamine (174 mg), and the mixture is heated with stirring at 60° C. for 18 hours. The solvent is evaporated and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (600 mg).

reactant | N-(3-carboxyphenyl)-4-hydroxy-3-methoxyphenylacetamide | 500 mg | C(=O)(O)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)OC)=O | C16H15NO5
reactant | pentafluorophenol | 305 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 320 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(N-cyclohexylcarbamoyl)phenyl]-4-hydroxy-3-methoxyphenylacetamide | 600 mg | C1(CCCCC1)NC(=O)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)OC)=O | C22H26N2O4
